US04703130
4-[[8-[(4-Methylphenyl)sulfonyl]octyl]oxy]-1,1-biphenyl
A mixture of 33.26 g of 8-([1,1'-biphenyl]-4-yl-oxy)-1-octanol, 23.37 g of tosyl chloride and 200 ml of pyridine was allowed to stand in a refrigerator overnight. Then water was added, the solid collected, washed with water and dissolved in chloroform. This solution was washed with dilute hydrochloric acid then saturated aqueous sodium bicarbonate, dried and the solvent removed, giving the desired compound as a white solid.

reactant | 8-([1,1'-biphenyl]-4-yl-oxy)-1-octanol | 33.26 g | C1(=CC=C(C=C1)OCCCCCCCCO)C1=CC=CC=C1 | C20H26O2
reactant | tosyl chloride | 23.37 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 4-[[8-[(4-Methylphenyl)sulfonyl]octyl]oxy]-1,1-biphenyl | CC1=CC=C(C=C1)S(=O)(=O)CCCCCCCCOC1=CC=C(C=C1)C1=CC=CC=C1 | C27H32O3S
